US06632810B2
Synthesis of 5,6,7-trimethoxyindole-2-carboxylic Acid:
Methyl 5,6,7-trimethoxyindole-2-carboxylate (700 mg) was dissolved in methanol (13 mL), potassium hydroxide powder (450 mg) was added to the solution, and the mixture was stirred for 3 hours under reflux. After allowing the reaction mixture to cool, it was concentrated under reduced pressure, and water was added to the residue. The resultant water layer was washed with ether and then neutralized with diluted hydrochloric acid. Crystals deposited were collected by filtration and dried to obtain the title compound.

reactant | Methyl 5,6,7-trimethoxyindole-2-carboxylate | 700 mg | COC=1C=C2C=C(NC2=C(C1OC)OC)C(=O)OC | C13H15NO5
reactant | potassium hydroxide | 450 mg | [OH-].[K+]
solvent | methanol | 13 mL | CO | CH4O
product | 5,6,7-trimethoxyindole-2-carboxylic Acid | COC=1C=C2C=C(NC2=C(C1OC)OC)C(=O)O | C12H13NO5
